US06458433B1
Under nitrogen gas stream, 52.3 g (2150 mmol) of magnesium was added in 100 ml of THF, and a solution of 378 g (1960 mmol) of 2,3-difluoro-1-bromobenzene in 4.0 l of THF was added by drops thereto so that the reaction temperature was maintained at about 50° C. Further, after stirred at room temperature for 1 hour, a solution of 500 g (1630 mmol) of 4-(4-(trans-4-pentylcyclohexyl)butyl)cyclohexanone in 5.0 l of THF was added by drops to the solution and stirred at 50 to 60° C. for 2 hours, and then 1.0 l of saturated aqueous ammonium chloride solution was added to the solution to terminate the reaction. The reaction mixture was filtered with Celite, the solvent was distilled off under a reduced pressure, and then it was extracted with 2.0 l of toluene. The organic layer was washed with 1.0 l of water thrice and dried over anhydrous magnesium sulfate. After the anhydrous magnesium sulfate was removed by filtration, 23.7 g of p-toluenesulfonic acid monohydrate was added to the filtrate and heated to reflux for 4 hours. The organic layer was washed with 1.0 l of water thrice and dried over anhydrous magnesium sulfate. The solvent was distilled off under a reduced pressure, and the residue was subjected to silica gel column chromatography (eluent: heptane) to obtain 436 g of a crude 1,2-difluoro-3-(4-(4-(trans-4-pentylcyclohexyl)-butyl)cyclohexene-1-yl)benzene.

reactant | magnesium | 2150 mmol, 52.3 g | [Mg] | Mg
reactant | 2,3-difluoro-1-bromobenzene | 1960 mmol, 378 g | FC1=C(C=CC=C1F)Br | C6H3BrF2
reactant | 4-(4-(trans-4-pentylcyclohexyl)butyl)cyclohexanone | 1630 mmol, 500 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCCCC1CCC(CC1)=O | C21H38O
reactant | ammonium chloride | 1.0 l | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 4.0 l | C1CCOC1 | C4H8O
solvent | THF | 5.0 l | C1CCOC1 | C4H8O
product | 1,2-difluoro-3-(4-(4-(trans-4-pentylcyclohexyl)-butyl)cyclohexene-1-yl)benzene | 436 g | FC1=C(C(=CC=C1)C1=CCC(CC1)CCCC[C@@H]1CC[C@H](CC1)CCCCC)F | C27H40F2
